US08067445B2
Step 2: (2′-Ethylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester
To a solution of (2′-ethylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid (0.34 mmol) in EtOH (7 mL) was added sulfuric acid (3-4 drops), and the reaction was stirred at 50° C. overnight. Once no starting material was seen by analytical LCMS, the mixture was filtered over a pad of Celite and rinsed with EtOH. The filtrate was concentrated to give the title compound.

reactant | (2′-ethylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid | 0.34 mmol | C(C)NCC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1)CC(=O)O | C18H18F3NO2
reactant | EtOH | 7 mL | CCO | C2H6O
catalyst | sulfuric acid | 3-4 drops | S(O)(O)(=O)=O | H2O4S
product | (2′-Ethylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C=CC1)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C20H22F3NO2
